US07994273B2
Preparation can be carried out analogously to Example 1 using 2.84 g (4.59 mmol) 6-({4-[(1E)-3-methoxy-3-oxoprop-1-enyl]benzoyl}oxy)hexyl 2-(4-nitrobenzyl)-3-(4-nitrophenyl)propanoate, 7.44 g (27.52 mmol) Ferric chloride hexahydrate and 3.00 g (45.89 mmol) Zinc powder yielded 1.93 g (72%) 6-({4 -[(1E)-3-methoxy-3-oxoprop-1-enyl]benzoyl}oxy)hexyl 2-(4-aminobenzyl)-3-(4 -aminophenyl)propanoate as yellow powder.

reactant | 6-({4-[(1E)-3-methoxy-3-oxoprop-1-enyl]benzoyl}oxy)hexyl 2-(4-nitrobenzyl)-3-(4-nitrophenyl)propanoate | 4.59 mmol, 2.84 g | [N+](=O)([O-])C1=CC=C(CC(C(=O)OCCCCCCOC(C2=CC=C(C=C2)\C=C\C(=O)OC)=O)CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C33H34N2O10
catalyst | Zinc | 45.89 mmol, 3.00 g | [Zn] | Zn
product | 6-({4 -[(1E)-3-methoxy-3-oxoprop-1-enyl]benzoyl}oxy)hexyl 2-(4-aminobenzyl)-3-(4 -aminophenyl)propanoate | 1.93 g, 72% | NC1=CC=C(CC(C(=O)OCCCCCCOC(C2=CC=C(C=C2)\C=C\C(=O)OC)=O)CC2=CC=C(C=C2)N)C=C1 | C33H38N2O6
